US05516788
cis-4b, 5,9b,10-Tetrahydro-5-acetyl-3,7-dinitroindeno[1,2-b]indole.
cis-4b,5,9b,10-Tetrahydro-3,7-dinitroindeno[1,2-b]indole (0.40 g, 1.35 mM) and acetic anhydride (1.5 cm3 ) were heated at 90° C. for 1 hour, cooled and poured into water (7 cm3) ice and the mixture was stirred for 30 minutes. The colourless solid which deposited was collected and taken up into hot ethanol. The after hot filtration, the title compound separated from the cold filtrate as prisms. Yield: 0.42 g, 92% M.p. 264°-266° C.

reactant | cis-4b,5,9b,10-Tetrahydro-3,7-dinitroindeno[1,2-b]indole | 1.35 mM, 0.40 g | [N+](=O)([O-])C1=CC=C2C[C@H]3[C@H](NC=4C=C(C=CC34)[N+](=O)[O-])C2=C1 | C15H11N3O4
reactant | acetic anhydride | 1.5 cm3 | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 7 cm3 | O | H2O
product | cis-4b, 5,9b,10-Tetrahydro-5-acetyl-3,7-dinitroindeno[1,2-b]indole | C(C)(=O)N1[C@H]2[C@@H](C=3C=CC(=CC13)[N+](=O)[O-])CC1=CC=C(C=C12)[N+](=O)[O-] | C17H13N3O5
